US06855710B2
(Z)-3-[1-(4-ethoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 2 from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and ethyl 4-aminobenzoate in dichloromethane and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C17H12ClNO2
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(4-ethoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)OC(=O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H20N2O3
